Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
n/v/d
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ woman w/ PMH multiple myeloma s/p 
chemotherapy currently undergoing GCSF injections in preparation 
for stem cell transplant this coming ___ presenting with 1 
week of general malaise and nausea, vomiting, diarrhea x 1 day.

She has had approximately 20 episodes of nonbloody nonbilious 
emesis as well as nonbloody watery diarrhea. She has had poor 
p.o. intake and subjective fevers and chills with profuse 
diaphoresis. She is currently getting treated at ___. 
Her most recent preparation shot was earlier today. The only 
other medical problem is anxiety and depression for which she 
takes Ativan as needed. No significant cough dysuria or 
hematuria. She does have some epigastric abdominal pain.

Exam was significant for tachycardia, dry mucous membranes, 
epigastric tenderness to palpation.

VS significant for Tmax 99.7, HR 111, BP 135/69, RR 16, O2Sat 
94% on RA.

CXR shows: Scattered bilateral densities overlying ribs may in 
part relate to rib lesions, new since ___, but also raise 
concern for underlying multifocal infection. No prior for 
comparison since ___.

CT A/P showed: multiple loops of small bowel with wall edema. 
Mild wall thickening of ascending colon, transverse colon, 
rectum. Associated mesenteric edema and small amount of ascites 
concerning for entero-proctocolitis. Numerous punched out lytic 
lesions within the pelvis, imaged spine, and proximal femurs
consistent with multiple myeloma.

She received Zofran, Lorazepam, NS and LR IVF 3L total, 
Clonazepam, Tylenol 1g, diphenhydramine 25 mg. 

She reports that she started feeling malaise and nausea a week 
ago. She started taking her GCSF shots 4 days ago. She reports 
that she started to have worsening nausea with vomiting of NBNB 
emesis and diarrhea, no  melena/hematochezia. She reports that 
she is having abdominal pain but also says that she's been 
having this for awhile and thinks this is from her multiple 
myeloma. She had a fever this week that she measured at home. 
She denies chest pains, SOB, cough. She denies lower extremity 
swelling. She feels
that all of her bones are aching and she can't get comfortable. 
She hasn't had morphine or other narcotics all day today. 
Doesn't feel like the Zofran is working for nausea. Feeling very 
anxious as well.

ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and are negative. 

 
Past Medical History:
Multiple Myeloma
Chronic obstructive pulmonary disease 
Gastroesophageal reflux disease 
Chiari malformation type I 
Anxiety 
PTSD (post-traumatic stress disorder) 
Hypertensive disorder 
Asthma 
Colitis 
Erosive gastritis 
Anemia 
Arthritis 
Hyperlipidemia 
Depressive disorder 
Colon polyp 
HYSTERECTOMY 
ANTERIOR CRUCIATE LIGAMENT REPAIR 

 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization.
 
Physical Exam:
VITALS: 99.1 PO 150 / 84 99 16 95% Ra 
GENERAL: alert, anxious, tearful, fidgeting, moving around in 
bed
a lot
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart tachycardic, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, tender to palpation over lower
abdomen.  Bowel sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: tearful, anxious

DISCHARGE EXAM: 
Vital Signs: 98.8  127/67 98 18 96% RA
glucose: 
. 
GEN: NAD, ambulating , pleasant, interactive, nervous, anxious
EYES: PERRL, EOMI, conjunctiva clear, anicteric
ENT: moist mucous membranes, no exudates 
NECK: supple 
CV: RRR s1s2 nl, no m/r/g
PULM: CTA, no r/r/w 
GI: normal BS, mild diffuse tenderness, no HSM  
EXT: warm, no c/c/e
SKIN: no rashes 
NEURO: alert, oriented x 3, answers ? appropriately, follows 
commands, non focal
PSYCH: appropriate
ACCESS: PIV
FOLEY: absent

 
Pertinent Results:
ADMIT LABS:
WBC 54.3, Hgb 13.6, Plt 301
INR 1.2, PTT 26
Cr 0.7
AlkP 173
trop neg x 1
phos 2.2
lactate 2.1
flu negative

DISCHARGE LABS: 
___ 06:25AM BLOOD WBC-4.7 RBC-3.81* Hgb-11.1* Hct-34.5 
MCV-91 MCH-29.1 MCHC-32.2 RDW-15.9* RDWSD-52.6* Plt ___
___ 06:25AM BLOOD Glucose-87 UreaN-5* Creat-0.5 Na-141 
K-3.1* Cl-101 HCO3-27 AnGap-13
___ 06:25AM BLOOD Calcium-8.3* Phos-3.7 Mg-1.8

# CXR (___): Scattered bilateral densities overlying ribs may 
in part relate to rib lesions, new since ___, but also 
raise concern for underlying multifocal infection. No prior for 
comparison since ___.

# CT A/P (___): IMPRESSION: 1. Multiple relatively collapsed 
loops of small bowel demonstrate wall edema.  Mild wall 
thickening of the ascending colon and possibly the transverse 
colon. Mild wall thickening and hyperemia of the rectum.  
Associated mesenteric edema and small amount of ascites.  
Findings concerning for entero-proctocolitis. 2. Numerous 
punched-out lytic lesions within the pelvis, imaged spine, and 
proximal femurs, consistent with multiple myeloma. 3. Anterior 
wedge compression deformities of T12 through L2 of indeterminate 
age, but unlikely to be acute. 
.

 
Brief Hospital Course:
ASSESSMENT & PLAN: ___ F h/o multiple myeloma s/p chemotherapy 
currently undergoing GCSF injections in preparation for stem 
cell transplant this coming ___ presenting with 1 week of 
general malaise and nausea, vomiting, diarrhea x 1 day.

ACUTE/ACTIVE PROBLEMS:
# Fever
# Nausea/vomiting/diarrhea: 
# Body pain/aches
   Ms. ___ presented with nausea/vomiting/diarrhea, fever. 
Although severity of these symptoms reportedly increased in the 
setting of GCSF initation (x4 days), she reports diarrhea 
occurring even beforehand. Admit WBC was elevated 54.3, lactate 
2.1 - but in the setting of GCSF.
    CT A/P showed evidence of mild enteroproctocolitis. Workup 
of her symptoms included the following: Flu: neg, Stool cdiff, 
salmonella/shigella/campylobacter were neg, CMV VL was 
undetectable.  Of note, CXR was negative. 
    To evaluate whether the G-CSF may play a role in her 
symptomology, hematology was consulted.  They felt that her 
constellation of symptoms were not attributable to the G-CSF.  
Although there are reports of anaphylaxis to G-CSF use - this 
was considered unlikely.  
    She was placed on IV Zofran, lorazepam ___, and hydrated.  On 
the Day1 of hospitalization, her nausea/vomiting and diarrhea 
resolved.  There were no further episodes of fever.  Due to low 
suspicion for bacterial infection, no antibiotics were given.  
She noted steady improvement in her symptoms with good tolerance 
of PO solids on day of discharge.  She was reassured that she 
should expect full recovery from a likely viral gastroenteritis. 
 . 
  Cause of Body pain unclear.  ? side effect of the ___ as she 
describe it as her bones that are hurting her. 

# Leukocytosis:
# MM
  Being treated at ___. S/p XRT, chemotherapy (RVD - last 
___.  Was planned for BMT on ___ per Partner's records. On 
admit, with high WBC with bands likely due to the effect of 
GCSF.  Dr. ___ staff at ___ was consulted - and it was 
felt that harvesting and port would be have to be postponed 
until she recoevers.  Transfer to ___ was felt not indicated.  
Reportedly, in the future, a more supervised approach would be 
adopted for her next Harvesting attempt.  She was continued on 
acyclovir. 

CHRONIC/STABLE PROBLEMS:
#Anxiety
#Depression:
Continued on home citalopram, venlafaxine.  Ativan above as 
needed (per ___ hasn't had a prescription since ___

#HTN: continue diltiazem

GENERAL/SUPPORTIVE CARE:
# Nutrition/Hydration: regular diet
# Functional status: ambulatory
# Bowel Function: holding
# Lines/Tubes/Drains: PIVs
# Precautions: universal
# VTE prophylaxis: SQH
# Consulting Services: none
# Contacts/HCP/Surrogate and Communication: son
# Code Status/Advance Care Planning: Full Code, presumed
# Disposition: Home without services. . 

NOTE: She reports that she has run out of oxycodone (confirmed 
on PMP).  1 day of oxycodone was provided to provide bridge for 
her visit/contact with her PCP. 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Vitamin D ___ UNIT PO 1X/WEEK (___) 
2. Diltiazem Extended-Release 240 mg PO DAILY 
3. Venlafaxine XR 75 mg PO DAILY 
4. Citalopram 40 mg PO DAILY 
5. Dexamethasone 4 mg PO DAILY:PRN during radiation 
6. OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Moderate 
7. Morphine Sulfate ___ 30 mg PO DAILY 
8. Morphine Sulfate ___ 60 mg PO QHS 
9. Acyclovir 400 mg PO Q8H 
10. Senna 17.2 mg PO DAILY 
11. Ondansetron 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q8H  
2.  Citalopram 40 mg PO DAILY  
3.  Dexamethasone 4 mg PO DAILY:PRN during radiation  
4.  Diltiazem Extended-Release 240 mg PO DAILY  
5.  Morphine Sulfate ___ 30 mg PO DAILY  
6.  Morphine Sulfate ___ 60 mg PO QHS  
7.  Ondansetron 8 mg PO Q8H:PRN Nausea/Vomiting - First Line  
8.  OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 10 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*6 Tablet Refills:*0 
9.  Senna 17.2 mg PO DAILY  
10.  Venlafaxine XR 75 mg PO DAILY  
11.  Vitamin D ___ UNIT PO 1X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Viral gastroenteritis 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,

   It was a pleasure looking after you.  As you may know, you 
were admitted with abdominal pain, diarrhea, nausea and 
vomiting.  You had multiple infection tests to evaluate for a 
possible cause for these symptoms and the workup here did not 
yield any positive tests (which is a good thing).  
   CT scan of the abdomen revealed mild inflammation of the 
intestinal tract - which can occur in setting of certain viral 
gastroenteritis.  You were observed for several days and were 
noted to have significant improvement in your symptoms: 
resolution of the diarrhea and nausea and vomiting.  You should 
continue to improve as this infection resolves.
   Due to this episode, as you know, your schedule for cell 
harvesting at ___ will be postponed.  
They will continue to contact you to determine the optimal 
follow up.
   Your medications remain otherwise unchanged (compared to 
prior to admission). 
   We wish you quick recovery and good health!

Your ___ Team 
 
Followup Instructions:
___